US05371247
N,N Dimethyl-1-methylthio-2-nitroethenamine
To a solution of dipotassium nitrodithioacetate (118 g) dissolved in water (630 ml), dimethylamine (1.1 equivalents) was added as a 40% w/w solution in water. After stirring for 6 hours at 20°-25° C., benzyltrimethylammonium chloride (7 g ) was charged followed by dimethyl sulphate (175 g ) over one hour. After stirring overnight, the reaction mixture was extracted three times with 100 ml aliquots of dichloromethane. After drying over MgSO4, the combined organic phases were concentrated to a red oil which was chromatographed on a silica gel column, using ethyl acetate as eluant to give, after recrystallisation from isopropanol, 36 g (40%) of the title compound, m.p. 60° C.

reactant | dipotassium nitrodithioacetate | 118 g | [N+](=O)([O-])CC(=S)[S-].[K+].[K+].[N+](=O)([O-])CC(=S)[S-]
reactant | dimethylamine | 1.1 equivalents | CNC | C2H7N
reactant | dimethyl sulphate | 175 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 630 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 7 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | N,N Dimethyl-1-methylthio-2-nitroethenamine | CN(C(=C[N+](=O)[O-])SC)C | C5H10N2O2S
